US04197080
Synthesis of 4-[3-(6-Bromohexylsulfamoyl)phenylazo]-5-methanesulfonamido-1-naphthol
A suspension of 4-[3-chlorosulfonylphenylazo]-1-ethoxycarboxy-5-methanesulfonamidonaphthalene (20.4 g), 6-bromohexylamine hydrobromide (14.4 g), 2,6-lutidine (600 ml) and tetrahydrofuran (30 ml) was reacted for one hour at 50°-55° C. The mixture was cooled and filtered; the filtrate was concentrated to an oil which was dissolved in a minimum amount of acetonitrile and chromatographed on silica gel using acetonitrile as the eluant. The orange colored eluate was concentrated and cooled to obtain the product; yield 7.3 g (32%), m.p. 163°-5° C.

reactant | 4-[3-chlorosulfonylphenylazo]-1-ethoxycarboxy-5-methanesulfonamidonaphthalene | 20.4 g | ClS(=O)(=O)C=1C=C(C=CC1)N=NC1=CC(=C(C2=CC=CC(=C12)NS(=O)(=O)C)OCC)C(=O)O | C20H18ClN3O7S2
reactant | 6-bromohexylamine hydrobromide | 14.4 g | Br.BrCCCCCCN
reactant | 2,6-lutidine | 600 ml | N1=C(C=CC=C1C)C | C7H9N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-[3-(6-Bromohexylsulfamoyl)phenylazo]-5-methanesulfonamido-1-naphthol | BrCCCCCCNS(=O)(=O)C=1C=C(C=CC1)N=NC1=CC=C(C2=CC=CC(=C12)NS(=O)(=O)C)O | C23H27BrN4O5S2
